US08278345B2
Compound 445: 1-(1H-Benzoimidazol-5-yl)-3-hydroxy-4-phenyl-5-(2,3,5-trifluoro-phenyl)-1,5-dihydro-pyrrol-2-one
1H-Benzoimidazol-5-ylamine (1 mmol) and 2,3,5 Trifluorobenzaldehyde (1 mmol) were added to ethanol (5 ml). After 30 min 2-Oxo-3-phenyl-propionic acid ethyl ester (1 mmol) was added. The reaction was heated to 50° C. and stirred for 24 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 1H-Benzoimidazol-5-ylamine | 1 mmol | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 2,3,5 Trifluorobenzaldehyde | 1 mmol | FC1=C(C=O)C=C(C=C1F)F | C7H3F3O
reactant | 2-Oxo-3-phenyl-propionic acid ethyl ester | 1 mmol | C(C)OC(C(CC1=CC=CC=C1)=O)=O | C11H12O3
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-(1H-Benzoimidazol-5-yl)-3-hydroxy-4-phenyl-5-(2,3,5-trifluoro-phenyl)-1,5-dihydro-pyrrol-2-one | N1C=NC2=C1C=CC(=C2)N2C(C(=C(C2C2=C(C(=CC(=C2)F)F)F)C2=CC=CC=C2)O)=O | C23H14F3N3O2
